* opamp_inverting
VCC vcc 0 DC 12
VEE vee 0 DC -12
VIN vin 0 SIN(0 0.5 500)
RIN vin vminus 10k
RF vout vminus 100k
R3 vplus_ref 0 10k
XU1 vplus_ref vminus vout vcc vee OPAMP

.subckt OPAMP 1 2 6 4 5
EGAIN 6 0 1 2 1e5
RINP 1 0 1e9
RINN 2 0 1e9
.ends OPAMP

.control
tran 0.1ms 10ms
.endc
.end
